US09446034B2
To a solution of 2-[(5-chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]-4-fluorobenzoic acid (2.5 g, 6.19 mmol) in N,N-dimethylformamide (DMF) (50 mL) was added HOBT (1.138 g, 7.43 mmol) and EDC (1.424 g, 7.43 mmol) and the reaction mixture was stirred for 30 min. To this solution was added O-methoxylamine hydrochloride (0.620 g, 7.43 mmol) and after 30 min the mixture was cooled to 0° C. Then DIEA (3.23 mL, 18.57 mmol) was added. The reaction mixture was stirred at the room temperature for 24 hr. Water (100 mL) followed by acetic acid (1 mL) were added and the solution extracted with 2×50 ml of ethyl acetate. The organic layer was washed with 2×50 ml sat KHCO3, brine, dried over MgSO4 and condensed. The resulting oil was purified by flash column chromatography on silica gel (2:1 DCM: EtOAc). 2-[(5-Chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]-4-fluoro-N-(methyloxy)benzamide (1 g, 2.195 mmol, 35.5% yield) was isolated as a yellow foam. 1H NMR (400 MHz, DMSO-d6) ppm 1.28 (d, J=6.57 Hz, 6 H) 2.11 (s, 3 H) 3.71 (s, 3 H) 4.41 (quin, J=6.51 Hz, 1 H) 5.97 (s, 1 H) 6.74 (s, 1 H) 6.87-7.06 (m, 1 H) 7.39 (dd, J=11.37, 2.53 Hz, 1 H) 7.66 (dd, J=8.46, 6.69 Hz, 1 H) 8.03 (s, 1 H) 8.57 (s, 1 H) 9.96 (br. s., 1 H) 11.98 (br. s., 1 H); HPLC Rt=2.36 min, MS (ESI): 433.3 [M+H]+.

reactant | 2-[(5-chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]-4-fluorobenzoic acid | 6.19 mmol, 2.5 g | ClC=1C(=CC(=NC1)NC1=CC(=NN1C(C)C)C)NC1=C(C(=O)O)C=CC(=C1)F | C19H19ClFN5O2
reactant | HOBT | 7.43 mmol, 1.138 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 7.43 mmol, 1.424 g
reactant | DIEA | 18.57 mmol, 3.23 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | Water | 100 mL | O | H2O
product | 2-[(5-Chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]-4-fluoro-N-(methyloxy)benzamide | 2.195 mmol, 1 g, 35.5% yield | ClC=1C(=CC(=NC1)NC1=CC(=NN1C(C)C)C)NC1=C(C(=O)NOC)C=CC(=C1)F | C20H22ClFN6O2
